US04438128
1-(4-Hydroxyphenoxy)-3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol
The 1-(4-benzyloxyphenoxy)-3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol used as starting material can be obtained in the following manner: 5.1 g. 4-benzyloxyphenyl glycidyl ether and 7.0 g. 4-(2-aminoethylamino)-indazole are dissolved in 10 ml. dimethylformamide and left to stand for 2 days at ambient temperature. The reaction mixture is then digested by the addition of 20 ml. methanol, filtered off with suction and then washed with methanol. There are obtained 5.0 g. (58% of theory) of the desired product in the form of colorless crystals; m.p. 151°-153° C.

reactant | 1-(4-benzyloxyphenoxy)-3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol | C(C1=CC=CC=C1)OC1=CC=C(OCC(CNCCNC2=C3C=NNC3=CC=C2)O)C=C1 | C25H28N4O3
reactant | 4-benzyloxyphenyl glycidyl ether | C(C1CO1)OC1=CC=C(C=C1)OCC1=CC=CC=C1 | C16H16O3
reactant | 4-(2-aminoethylamino)-indazole | NCCNC1=C2C=NNC2=CC=C1 | C9H12N4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-Hydroxyphenoxy)-3-[2-(indazol-4-ylamino)-ethylamino]-propan-2-ol | OC1=CC=C(OCC(CNCCNC2=C3C=NNC3=CC=C2)O)C=C1 | C18H22N4O3
